US08114886B2
N-(1-hydroxymethyl)-4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]sulfonyl](2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide
To a solution of 4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]sulfonyl](2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide (147 mg, 0.300 mmol) in ethylene glycol dimethyl ether (0.8 ml), an aqueous solution of formaldehyde (37%, 0.200 ml) and 1 N aqueous sodium hydroxide (0.200 ml) were added at room temperature, and the mixture was stirred for 16 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed with saturated aqueous sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the obtained residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=1:1 was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of ethyl acetate and diethyl ether, and then was collected by filtration to obtain the title compound (113 mg, 0.218 mmol, 73%) as a white solid.

reactant | 4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]sulfonyl](2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide | 0.300 mmol, 147 mg | CC1=CC(=NC=C1C(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C=1C=NC(=CC1)C(F)(F)F)C(=O)N | C20H13F6N3O3S
reactant | formaldehyde | 0.200 ml | C=O | CH2O
reactant | sodium hydroxide | 1 N, 0.200 ml | [OH-].[Na+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 0.8 ml | COCCOC | C4H10O2
product | N-(1-hydroxymethyl)-4-methyl-5-[[[6-(trifluoromethyl)pyridin-3-yl]sulfonyl](2,3,6-trifluorophenyl)methyl]pyridine-2-carboxamide | 0.218 mmol, 113 mg, 73% | OCNC(=O)C1=NC=C(C(=C1)C)C(C1=C(C(=CC=C1F)F)F)S(=O)(=O)C=1C=NC(=CC1)C(F)(F)F | C21H15F6N3O4S
